US06939885B2
Synthesis of N-[4-Chloro-2-(pyridine-4-carbonyl)-phenyl]-4-isopropoxy-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using 116 mg of (2-Amino-5-chloro-phenyl)-pyridin-4-yl-methanone and 117 mg of 4-Isopropoxy-benzenesulfonyl chloride. 1H-NMR (400 MHz, CDCl3): δ 1.01 (d, 6H, J=5.6 Hz), 4.27 (m, 1H), 6.51 (d, 2H, J=8.8 Hz), 6.87 (d, 1H, J=8.8 Hz), 7.15-7.25 (m, 4H), 7.60 (d, 2H, J=6.0 Hz), 8.64 (d, 2H, J=6 Hz), 9.60 (s, 1H). MS: m/z 431.9 (M++1).

reactant | (2-Amino-5-chloro-phenyl)-pyridin-4-yl-methanone | 116 mg | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=NC=C1 | C12H9ClN2O
reactant | 4-Isopropoxy-benzenesulfonyl chloride | 117 mg | C(C)(C)OC1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO3S
product | N-[4-Chloro-2-(pyridine-4-carbonyl)-phenyl]-4-isopropoxy-benzenesulfonamide | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)OC(C)C)C(=O)C1=CC=NC=C1 | C21H19ClN2O4S
